US03973947
To a solution of 69.5 parts of 2-methyl-2-thiopseudourea sulfate and 47 parts of methyl chloroformate in 1000 parts of water at 0°C is added dropwise 56.9 parts of potassium hydroxide in 200 parts of water. The reaction mixture is stirred at room temperature for 3 hours and then extracted with methylene chloride. The methylene chloride extract is dried and the solvent evaporated at reduced pressure to give 45 g of methyl N-(1-amino-1-methylthiomethylene)carbamate melting at 72°-77°C.

reactant | 2-methyl-2-thiopseudourea sulfate | S(=O)(=O)(O)O.CSC(N)=N
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | O | H2O
product | methyl N-(1-amino-1-methylthiomethylene)carbamate | 45 g | NC(SC)=NC(OC)=O | C4H8N2O2S
